US08022075B2
5-[4-(6-Bromoimidazo[1,2-a]pyrimidin-2-yl)phenyl]-1,3-oxazole (23)
2-Amino-5-bromopyrimidine (348 mg) and 2-bromo-1-[4-(1,3-oxazol-5-yl)phenyl]-1-ethanone (532 mg) were suspended in 1,4-dioxane (20 mL), followed by refluxing under heating overnight. Immediately after refluxing, the reaction mixture was filtered without being cooled, followed by washing with heated 1,4-dioxane and drying, to thereby yield the title compound (587 mg).

reactant | 2-Amino-5-bromopyrimidine | 348 mg | NC1=NC=C(C=N1)Br | C4H4BrN3
reactant | 2-bromo-1-[4-(1,3-oxazol-5-yl)phenyl]-1-ethanone | 532 mg | BrCC(=O)C1=CC=C(C=C1)C1=CN=CO1 | C11H8BrNO2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-[4-(6-Bromoimidazo[1,2-a]pyrimidin-2-yl)phenyl]-1,3-oxazole | 587 mg | BrC=1C=NC=2N(C1)C=C(N2)C2=CC=C(C=C2)C2=CN=CO2 | C15H9BrN4O
